US07790720B2
Ethyl 2-bromo-4-methyl-1,3-thiazole-5-carboxylate (1 g, 1.3 eq, 4 mmol) is added to a mixture of 2-chloro-5-pyridine boronic acid (0.48 g, 1 eq, 3.07 mmol), tetrakis(triphenylphosphine)palladium (0.18 g, 0.05 eq, 0.15 mmol) and an aqueous solution of 2 M potassium carbonate (3 ml, 2 eq, 6.14 mmol) in toluene/ethanol (18 ml, 2:1 v/v). The mixture is refluxed overnight and the solvent is evaporated, then taken up in ethyl acetate, and washed two times with an aqueous solution of sodium hydrogenocarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated under vacuum. Purification by chromatography over silicagel (eluent: dichloromethane 100%) affords 0.6 g of ethyl 2-(6-chloropyridin-3-yl)-4-methyl-1,3-thiazole-5-carboxylate i97.

reactant | Ethyl 2-bromo-4-methyl-1,3-thiazole-5-carboxylate | 4 mmol, 1 g, 1.3 eq | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | 2-chloro-5-pyridine boronic acid | 3.07 mmol, 0.48 g, 1 eq | ClC1=NC=C(C=C1)B(O)O | C5H5BClNO2
reactant | potassium carbonate | 6.14 mmol, 2 M, 3 ml, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol | 18 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium | 0.15 mmol, 0.18 g, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-(6-chloropyridin-3-yl)-4-methyl-1,3-thiazole-5-carboxylate | 0.6 g, Yield: 69% | ClC1=CC=C(C=N1)C=1SC(=C(N1)C)C(=O)OCC | C12H11ClN2O2S
